US08686002B2
3-(2-Methoxybenzyl)-1,5-naphthyridin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 3-amino-2-pyridine carboxaldehyde trifluoroacetate (in turn synthesized from (2-formylpyridin-3-yl)carbamate tert-butyl ester by treatment with trifluoroacetic acid) and 3-(2-methoxyphenyl)propionitrile. One equivalent of potassium tert-butylate was additionally used.

reactant | 3-amino-2-pyridine carboxaldehyde trifluoroacetate | FC(C(=O)O)(F)F.NC=1C(=NC=CC1)C=O
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
reactant | potassium tert-butylate | One equivalent | CC(C)(C)[O-].[K+]
product | 3-(2-Methoxybenzyl)-1,5-naphthyridin-2-amine | COC1=C(CC=2C(=NC3=CC=CN=C3C2)N)C=CC=C1 | C16H15N3O
